* 2nd-order Single-Loop CIFB SC Sigma-Delta ADC — Transistor Level
* SKY130 130nm CMOS, 1.8V supply
* fs=1MHz, OSR=256, fin=1.5kHz (EEG/ECG band: 0–1.95kHz)
*
* ARCHITECTURE: 2nd-order CIFB (Cascade of Integrators with Feedback)
*   Two cascaded SC integrators, SINGLE comparator on Int2 output.
*   SINGLE DAC feeds back to BOTH Int1 (via Cs1) and Int2 (via Cs_fb2).
*
* COEFFICIENTS:
*   a1 = Cs1/Ci1 = 0.35pF/4pF = 0.0875  (Stage 1 signal+DAC gain; small to avoid OTA clipping)
*   a2 = Cs_s2/Ci2 = 2pF/4pF = 0.5      (Stage 2 signal gain)
*   b2 = Cs_fb2/Ci2 = 1pF/4pF = 0.25    (Stage 2 DAC feedback)
*
* NTF ANALYSIS (linear model):
*   NTF(z) = (1-z^-1)^2 / D(z)
*   D(z) = 1 - 1.75*z^-1 + 0.8375*z^-2
*   Poles: z = 0.875 ± j0.268, |z| = 0.915  ← Lee stable (|NTF|_max = 1.12 < 1.5)
*   D(z=1) = a1*a2 = 0.0875 → 21dB in-band noise boost vs ideal 2nd-order
*   Theoretical SNDR at OSR=256: ~98dB → ENOB ≈ 16 bits (before thermal/idle-tone losses)
*   Practical estimate: 10–14 bits transistor-level
*
* SIGN CONVENTION (SC integrator with inverting OTA):
*   Stage 1: Δvint1 = +(Cs1/Ci1)*(Vin-Vdac) = +0.175*(Vin-Vdac)
*     When Vdac=HIGH (1.8V): Δvint1 = +0.175*(Vin-1.8) < 0 for Vin<1.8V → vint1 decreases ✓
*   Stage 2 signal (4-switch): Δvint2_sig = +(Cs_s2/Ci2)*(vint1-VCM)  [positive integration]
*   Stage 2 DAC fb (perm-top): Δvint2_fb = -(Cs_fb2/Ci2)*(Vdac-VCM)  [negative feedback]
*   Loop: vint2>VCM → comp=HIGH → Vdac=1.8V → Δvint2_fb < 0 ← NEGATIVE FEEDBACK ✓
*
* ============================================================

.lib sky130_models/sky130.lib.spice tt

* ============================================================
* Parameters
* ============================================================
.param VDD    = 1.8
.param VCM    = 0.9

* Stage 1: a1 = Cs1/Ci1 = 0.175
.param Cs1    = 0.7e-12   ; 0.7pF sampling cap
.param Ci1    = 4e-12     ; 4pF integration cap

* Stage 2: a2=0.5, b2=0.25
.param Cs_s2  = 2e-12     ; 2pF signal cap  (a2 = 2/4 = 0.5)
.param Cs_fb2 = 1e-12     ; 1pF DAC fb cap  (b2 = 1/4 = 0.25)
.param Ci2    = 4e-12     ; 4pF integration cap

* OTA sizing — conservative gain boost v2 (STABLE)
* Only 2nd-stage L increased 0.5→1µm; 1st stage/tail unchanged.
* M5 balance: Ids_M5 = 2×(16/1)/(4/1)×25µA = 200µA
*             Ids_M6 = (8/1)/(4/2)×50µA    = 200µA  ✓ balanced
* gm5 = sqrt(2*65µ*(2*16/1)*200µ) ≈ 912µA/V → 1/gm5=1096Ω
* A1 ≈ 26.7 V/V, A2 ≈ 28 V/V, A_total ≈ 748 V/V = 57.5 dB
* Rz=2200 > 1/gm5=1096Ω → LHP zero at 36MHz → stable PM=107°
.param p_wn_in   = 4e-6
.param p_ln_in   = 0.5e-6
.param p_wp_load = 4e-6
.param p_lp_load = 1e-6
.param p_wn_tail = 4e-6
.param p_ln_tail = 2e-6
.param p_wp_2nd  = 16e-6
.param p_lp_2nd  = 1e-6
.param p_wn_2nd  = 8e-6
.param p_ln_2nd  = 1e-6
.param p_cc      = 4e-12
.param p_ibias   = 50e-6

* ============================================================
* Power supplies
* ============================================================
VDD  vdd  0  DC 1.8
VVSS vss  0  DC 0

* ============================================================
* Input: Vin = VCM + 0.5V*sin(2π*1.5kHz*t) + 30mV*sin(2π*100kHz*t)
* Main: 0.5V amplitude, coherent at fin=1.5kHz (bin 12 for N=8000)
* Dither: 30mV at 100kHz (out-of-band: bin 800 >> inband_cutoff=15)
*   → breaks SDM idle tones at bin 1, reduces low-freq limit cycles
*   → 100kHz is noise-shaped out of band, no in-band power increase
* ============================================================
Vin_src  vin_src_m  0  DC 0.9  SIN(0.9 0.6 1.5e3 0 0)
Vdith    vin_src    vin_src_m  SIN(0 50m 7.75e3 0 0)
Rvin     vin_src    vin  100

* ============================================================
* Non-overlapping clocks (Ts=1µs, dead time=20ns)
* phi1 HIGH: 0–490ns   phi2 HIGH: 510–1000ns
* ============================================================
Vphi1  phi1_src  0  PULSE(0   1.8  0     2n 2n  486n  1u)
Vphi1b phi1b_src 0  PULSE(1.8 0    0     2n 2n  486n  1u)
Vphi2  phi2_src  0  PULSE(0   1.8  510n  2n 2n  486n  1u)
Vphi2b phi2b_src 0  PULSE(1.8 0    510n  2n 2n  486n  1u)
Rphi1  phi1_src  phi1  100
Rphi1b phi1b_src phi1b 100
Rphi2  phi2_src  phi2  100
Rphi2b phi2b_src phi2b 100

* ============================================================
* Bias and references
* vcmbias : Stage 1 non-inv OTA input (isolated from Stage 2 cap switching)
* vcmbias2: Stage 2 non-inv OTA input + signal cap top plate (permanently)
* ============================================================
Vcmbias  vcmbias_src  0  DC 0.9
Rcmbias  vcmbias_src  vcmbias  100
Vcmbias2 vcmbias2_src 0  DC 0.9
Rcmbias2 vcmbias2_src vcmbias2 100
Ibias  vdd  vbn  DC {p_ibias}
XMbias vbn  vbn  vss vss  sky130_fd_pr__nfet_01v8  w={p_wn_tail} l={p_ln_tail} m=1

* ============================================================
* OTA — Two-stage Miller-compensated
* Ports: vip  vin  vout  vdd  vss  vbn
* vip = INVERTING input (M1 gate: vip↑→vout↓) → place at virtual-ground node
* ============================================================
.subckt ota  vip  vin  vout  vdd  vss  vbn
XMtail  ntail  vbn    vss  vss  sky130_fd_pr__nfet_01v8  w={p_wn_tail} l={p_ln_tail} m=1
XM1     nd1    vip    ntail vss  sky130_fd_pr__nfet_01v8  w={p_wn_in}   l={p_ln_in}   m=2
XM2     nd2    vin    ntail vss  sky130_fd_pr__nfet_01v8  w={p_wn_in}   l={p_ln_in}   m=2
XM3     nd1    nd1    vdd   vdd  sky130_fd_pr__pfet_01v8  w={p_wp_load} l={p_lp_load} m=1
XM4     nd2    nd1    vdd   vdd  sky130_fd_pr__pfet_01v8  w={p_wp_load} l={p_lp_load} m=1
XM5     vout   nd2    vdd   vdd  sky130_fd_pr__pfet_01v8  w={p_wp_2nd}  l={p_lp_2nd}  m=2
XM6     vout   vbn    vss   vss  sky130_fd_pr__nfet_01v8  w={p_wn_2nd}  l={p_ln_2nd}  m=1
Cc      nd2    cc_int {p_cc}
Rz      cc_int vout   2200
.ends ota

* ============================================================
* Transmission Gate — closed when ph=HIGH
* ============================================================
.subckt tg  in  out  ph  phb  vdd  vss
XMN  in  ph   out  vss  sky130_fd_pr__nfet_01v8  w=1e-6  l=150n  m=1
XMP  in  phb  out  vdd  sky130_fd_pr__pfet_01v8  w=2e-6  l=150n  m=1
.ends tg

* ============================================================
* STAGE 1: 1st-order SC Integrator
*
* Δvint1 = -(Cs1/Ci1)*(Vin - Vdac) = -0.175*(Vin - Vdac)
* [Inverting OTA: charge conservation gives sign reversal]
* DAC = vdac = shared comparator output (from Stage 2 comparator)
* ============================================================
Xs1a  vin       cs1_top  phi1  phi1b  vdd  vss  tg
Xs1b  vdac      cs1_bot  phi1  phi1b  vdd  vss  tg
Xs2a  vcmbias   cs1_top  phi2  phi2b  vdd  vss  tg
Xs2b  vint1_in  cs1_bot  phi2  phi2b  vdd  vss  tg
Cs1_cap  cs1_top  cs1_bot  {Cs1}
Xota1    vint1_in  vcmbias  vint1_out  vdd  vss  vbn  ota
Ci1_int  vint1_out  vint1_in  {Ci1}

* 100Ω buffer: prevents Stage 2 cap charge injection from disturbing OTA1 output
Rbuf_s2  vint1_out  vint1_s2  100

* ============================================================
* STAGE 2: 2nd-order integrator (CIFB topology)
*
* State equations (x = v-VCM, d = vdac-VCM):
*   x1[n+1] = x1[n] + a1*(u-d)    [Stage 1: positive gain]
*   x2[n+1] = x2[n] + a2*x1 - b2*d [Stage 2: +signal, -DAC]
* NTF = (1-z^-1)^2 / D(z),  D(z) = 1 - 1.75z^-1 + 0.8375z^-2, |poles|=0.915 ✓
*
* Cs_s2: 4-switch topology
*   phi1: top=vint1_s2, bot=vcmbias2=VCM  → V_cap = vint1-VCM
*   phi2: top=vcmbias2=VCM, bot=vint2_in  → V_cap → 0 (virtual ground)
*   Δvint2_out = +(Cs_s2/Ci2)*(vint1-VCM) = +a2*x1  [POSITIVE signal] ✓
*
* Cs_fb2: permanent top=VCM, 2-switch bot
*   phi1: top=vcmbias2=VCM, bot=vdac  → V_cap = VCM-vdac (NEGATIVE when vdac=HIGH)
*   phi2: top=vcmbias2=VCM, bot=vint2_in → V_cap → 0 (virtual ground)
*   Δvint2_out = -(Cs_fb2/Ci2)*(vdac-VCM) = -b2*d  [NEGATIVE DAC feedback] ✓
* ============================================================

* Cs_s2: signal cap — 4-switch
Xs3a  vint1_s2  cs2_s_top  phi1  phi1b  vdd  vss  tg
Xs3b  vcmbias2  cs2_s_bot  phi1  phi1b  vdd  vss  tg
Xs4a  vcmbias2  cs2_s_top  phi2  phi2b  vdd  vss  tg
Xs4b  vint2_in  cs2_s_bot  phi2  phi2b  vdd  vss  tg
Cs_s2_cap  cs2_s_top  cs2_s_bot  {Cs_s2}

* Cs_fb2: DAC feedback — permanent top=VCM, 2-switch bot
Xs5b  vdac      cs2_fb_bot  phi1  phi1b  vdd  vss  tg
Xs6b  vint2_in  cs2_fb_bot  phi2  phi2b  vdd  vss  tg
Cs_fb2_cap  vcmbias2  cs2_fb_bot  {Cs_fb2}

* OTA2 and integration cap
Xota2    vint2_in  vcmbias2  vint2_out  vdd  vss  vbn  ota
Ci2_int  vint2_out  vint2_in  {Ci2}


* ============================================================
* 1-BIT COMPARATOR & S&H
*
* Simple CMOS inverter chain, Vth ≈ 0.9V (Wn=4µm, Wp=16µm balanced).
* 4 stages (even) → cDc HIGH when vint2 > Vth (non-inverting after 4 inv).
* DAC: vdac_q = VDD when vint2>0.9V, VSS when vint2<0.9V (sampled on phi1).
*
* Evaluate: vdac_q > 0.9V → +1; < 0.9V → -1
* ============================================================

* --- 4-inverter chain: cDc HIGH when vint2 > ~0.9V ---
XMnAc  cAc  vint2_out  vss  vss  sky130_fd_pr__nfet_01v8  w=4e-6   l=150n  m=1
XMpAc  cAc  vint2_out  vdd  vdd  sky130_fd_pr__pfet_01v8  w=16e-6  l=150n  m=1
XMnBc  cBc  cAc        vss  vss  sky130_fd_pr__nfet_01v8  w=4e-6   l=150n  m=1
XMpBc  cBc  cAc        vdd  vdd  sky130_fd_pr__pfet_01v8  w=16e-6  l=150n  m=1
XMnCc  cCc  cBc        vss  vss  sky130_fd_pr__nfet_01v8  w=4e-6   l=150n  m=1
XMpCc  cCc  cBc        vdd  vdd  sky130_fd_pr__pfet_01v8  w=16e-6  l=150n  m=1
XMnDc  cDc  cCc        vss  vss  sky130_fd_pr__nfet_01v8  w=4e-6   l=150n  m=1
XMpDc  cDc  cCc        vdd  vdd  sky130_fd_pr__pfet_01v8  w=16e-6  l=150n  m=1
* cDc HIGH when vint2 > ~0.9V;  cCc = NOT(cDc)

* --- AND gates: phi1 AND {cDc, cCc} to clock-gate S&H TGs ---
* andhi = phi1 AND cDc  → TG drives VDD to vdac_q
XMnNH1  nandhi  phi1    andhn1  vss  sky130_fd_pr__nfet_01v8  w=4e-6  l=150n  m=1
XMnNH2  andhn1  cDc     vss     vss  sky130_fd_pr__nfet_01v8  w=4e-6  l=150n  m=1
XMpNH1  nandhi  phi1    vdd     vdd  sky130_fd_pr__pfet_01v8  w=8e-6  l=150n  m=1
XMpNH2  nandhi  cDc     vdd     vdd  sky130_fd_pr__pfet_01v8  w=8e-6  l=150n  m=1
XMnAH   andhi   nandhi  vss     vss  sky130_fd_pr__nfet_01v8  w=4e-6  l=150n  m=1
XMpAH   andhi   nandhi  vdd     vdd  sky130_fd_pr__pfet_01v8  w=12e-6 l=150n  m=1

* andlo = phi1 AND cCc  → TG drives VSS to vdac_q
XMnNL1  nandlo  phi1    andln1  vss  sky130_fd_pr__nfet_01v8  w=4e-6  l=150n  m=1
XMnNL2  andln1  cCc     vss     vss  sky130_fd_pr__nfet_01v8  w=4e-6  l=150n  m=1
XMpNL1  nandlo  phi1    vdd     vdd  sky130_fd_pr__pfet_01v8  w=8e-6  l=150n  m=1
XMpNL2  nandlo  cCc     vdd     vdd  sky130_fd_pr__pfet_01v8  w=8e-6  l=150n  m=1
XMnAL   andlo   nandlo  vss     vss  sky130_fd_pr__nfet_01v8  w=4e-6  l=150n  m=1
XMpAL   andlo   nandlo  vdd     vdd  sky130_fd_pr__pfet_01v8  w=12e-6 l=150n  m=1

* --- 1-bit S&H: during phi1 one TG drives vdac_q; phi2 = hold ---
Xtg_hi  vdd  vdac_q  andhi  nandhi  vdd  vss  tg
Xtg_lo  vss  vdac_q  andlo  nandlo  vdd  vss  tg
Ch_dac  vdac_q  vss  10e-12
Rdac    vdac_q  vdac  1


* ============================================================
* Initial Conditions
* ============================================================
* Stage 1: vint1 slightly above VCM → comp fires HIGH → vdac=1.8V from cycle 1
.ic v(vint1_out)  = 1.0
.ic v(vint1_in)   = 0.9
.ic v(cs1_top)    = 0.9
.ic v(cs1_bot)    = 1.8

* Stage 2: start at VCM; cs2_s phi1 top=vint1_s2≈1.0V, bot=VCM; cs2_fb phi1 bot=vdac=1.8V
.ic v(vint2_out)  = 0.9
.ic v(vint2_in)   = 0.9
.ic v(cs2_s_top)  = 1.0
.ic v(cs2_s_bot)  = 0.9
.ic v(cs2_fb_bot) = 1.8

* 1-bit comparator ICs (vint2_out=0.9V → at threshold, set HIGH to start)
*   cDc = 1.8 (HIGH = vint2>0.9V interpretation), cCc = 0.0
*   phi1=0 at t=0 → andhi=0, andlo=0 → vdac_q holds initial value
.ic v(cAc)   = 0.0
.ic v(cBc)   = 1.8
.ic v(cCc)   = 0.0
.ic v(cDc)   = 1.8
.ic v(nandhi) = 1.8
.ic v(andhi)  = 0.0
.ic v(nandlo) = 1.8
.ic v(andlo)  = 0.0
.ic v(vdac_q) = 1.8
.ic v(vdac)   = 1.8


* ============================================================
* Transient: 12ms clock cycles at fs=1MHz
* ============================================================
.options RSHUNT=1e10 RELTOL=0.002 ABSTOL=1e-13 VNTOL=2e-4 ITL4=300

.control
tran 20n 12m uic

set wr_vecnames
set wr_singlescale
wrdata /tmp/adc_tran.dat v(vint1_out) v(vint2_out) v(vdac_q) v(vin) v(phi1) v(phi2)

quit
.endc

.end
